US05804532
n-Butyllithium (2.5M in hexane; 8.8 ml) was added to a stirred cooled solution of di-isopropylamine (2.22 g) in dry tetrahydrofuran, maintaining the temperature below -40° C. The mixture was stirred for 0.5 hours then a solution of 4-bromo-3-chlorobenzoic acid (2.36 g) in dry tetrahydrofuran was added. The mixture was stirred at -40° C. for 6 hours. Dimethyl disulphide (2.82 g) was added and the mixture was stirred at -40° C. for 1 hour and at room temperature overnight. Hydrochloric acid (2M) was added and the layers were separated. The organic layer was washed with water, dried (magnesium sulphate) and filtered. The filtrate was evaporated to dryness and the residue was recrystallized from a mixture of ethyl acetate and hexane to give 4-bromo-3-chloro-2-methylsulphenylbenzoic acid (0.98 g) as a solid, m.p. 128°-130° C.

reactant | n-Butyllithium | 2.5M, 8.8 ml | C(CCC)[Li]
reactant | di-isopropylamine | 2.22 g | C(C)(C)NC(C)C | C6H15N
reactant | 4-bromo-3-chlorobenzoic acid | 2.36 g | BrC1=C(C=C(C(=O)O)C=C1)Cl | C7H4BrClO2
reactant | Dimethyl disulphide | 2.82 g | CSSC | C2H6S2
reactant | Hydrochloric acid | 2M | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-bromo-3-chloro-2-methylsulphenylbenzoic acid | 0.98 g | BrC1=C(C(=C(C(=O)O)C=C1)SC)Cl | C8H6BrClO2S
